### PR TITLE
feat(GreensOpenProblems): 2

### LINKED ISSUE #890: Green's Open Problems #2
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#section.1 Problem 2

Let $A \subset \mathbb{Z}$ be a set of $n$ integers. Is there a set $S \subset A$ of size $(\log n)^{100}$ with $S \hat{+} S$ disjoint from $A$?

### Prerequisites needed
Definition of the restricted sumset ($S \hat{+} S := \\{s_1 + s_2 : s_1, s_2 \in S, s_1 \neq s_2\\}$).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-5
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
Let $A \subset \mathbf{Z}$ be a set of $n$ integers. Is there a set $S \subset A$ of size $(\log n)^{100}$ such that the restricted sumset $S \hat{+} S$ is disjoint from $A$?

The _restricted sumset_ of a set $S$, denoted $S \hat{+} S$, is the set $\lbrace s_1 + s_2 : s_1, s_2 \in S, s_1 \neq s_2 \rbrace$.

- Closes #890 
- Added some proven bounds as additional variants

# Testing
:white_check_mark: Builds successfully.
```shell
$ lake build FormalConjectures/GreensOpenProblems/2.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+  sSup {n : ℕ | ∃ S : Finset ℤ,
+    S ⊆ A ∧ Disjoint (restrictedSumset S) A ∧ S.card = n}
+
+/--
+Let $A \subset \mathbf{Z}$ be a set of $n$ integers. Is there a set $S \subset A$ of size
+$(\log n)^{100}$ such that the restricted sumset$S \hat{+} S$ is disjoint from $A$?
+-/
+@[category research open, AMS 11]
+theorem green_2 : answer(sorry) ↔
+    ∀ᶠ n in atTop, ∀ A : Finset ℤ, A.card = n →
```
Comment (jeangud) [inline FormalConjectures/GreensOpenProblems/2.lean]: Considering asymptotic behavior mostly. Not sure if we want to consider a more literal interpretation of Green's PDF statement?

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+open Filter Set
+
+/-!
+# Ben Green's Open Problem 2
+
+References:
+- [Gr24] [Green, Ben. "100 open problems." (2024).](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.85)
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/2.lean]:
```suggestion
- [Gr24] [Green, Ben. "100 open problems." (2024).](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.2)
```

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+def restrictedSumset (S : Set ℤ) : Set ℤ :=
+  {s₁ + s₂ | (s₁ ∈ S) (s₂ ∈ S) (s₁ ≠ s₂)}
+
+/--
+We define the construction from [Sa21, p1] as
+$M(A) := \max \{|S| : S \subseteq A \text{ and } (S \hat{+} S) \cap A = \varnothing \}$.
+-/
+noncomputable def maxRestrictedSumAvoidingSubsetSize (A : Finset ℤ) : ℕ :=
+  sSup {n : ℕ | ∃ S : Finset ℤ,
+    S ⊆ A ∧ Disjoint (restrictedSumset S) A ∧ S.card = n}
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/2.lean]:
```suggestion
     sSup { (S.card) | (S : Finset ℤ) (_ : S ⊆ A) (_ : Disjoint (restrictedSumset S) A)}
```
Should be equivalent, but one doesn't have to choose a variable name for $n$

File: FormalConjectures/GreensOpenProblems/2.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/GreensOpenProblems/2.lean]: I guess we want to figure out the intent of the statement in the pdf, perhaps it is the literal one?

Comment (mo271) [reply FormalConjectures/GreensOpenProblems/2.lean]: The following can be proved by AlphaProof: 
```lean
theorem green_2 : ¬ (∀ᶠ n in atTop, ∀ A : Finset ℤ, A.card = n →
      maxRestrictedSumAvoidingSubsetSize A ≥ (Real.log n) ^ 100) := by
  simp_rw [Filter.eventually_atTop, maxRestrictedSumAvoidingSubsetSize, not_exists]
  delta Green2.restrictedSumset
  use fun and J=> (J (and+3) (by valid) (.image (↑) (.range (and+3))) (by norm_num[ Finset.card_image_of_injective,Nat.cast_injective])).not_lt ((Nat.cast_nonpos.2 (IsGreatest.csSup_eq ? _)).trans_lt ? _)
  · use⟨{},by norm_num⟩, fun and⟨s,A, B, u⟩=>u▸not_lt.1 (Finset.card_pos.1 ·|>.elim fun and(a)=>B.le_bot ⟨⟨ _,a, _,a,-and-1,?_⟩,A a⟩)
    cases B.le_bot ⟨⟨ _,a, _,a,1-and,by cases Finset.mem_image.1 (A a) with valid, rfl⟩,by norm_num⟩
  · apply pow_pos (Real.log_pos (mod_cast by valid))
```
Hence I suspect a misformalisation here.

File: FormalConjectures/GreensOpenProblems/2.lean (hunk 3 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: Nice, I did not know about this syntax. Thanks!

File: FormalConjectures/GreensOpenProblems/2.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: This counter-example was super helpful, thank you!

I revisited the formalisation based on it with https://github.com/google-deepmind/formal-conjectures/pull/1871/changes/fd847a00527377be8aa2f1115b9317306ae7314e:
- Fixed implicit `Set` to `Finset` coercion
- Replace the `sSup` formulation which apparently can collapse to 0 default behavior on some ill-formed unbounded sets (which would then make the bound trivially false).
- Added explicit types for the comparisons with the log

These were enough to invalidate AlphaProof's code, hopefully a sign of a better formalisation.

I am not exactly sure all type annotations are required, feel free to update based on coding style/preference.

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+      (maxRestrictedSumAvoidingSubsetSize A : ℝ) ≥ (Real.log n) ^ 100 := by
+  sorry
+
+/--
+From [Sa21] it is known that there is always such an S with $|S| \gt (\log |A|)^{1+c}$.
+-/
+@[category research solved, AMS 11]
+theorem green_2_lower_bound_sanders :
+    ∃ c > (0 : ℝ), ∀ᶠ n : ℕ in atTop, ∀ A : Finset ℤ, A.card = n →
+      (maxRestrictedSumAvoidingSubsetSize A : ℝ) ≥ ((Real.log n) ^ (1 + c)) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/2.lean]:
```suggestion
      maxRestrictedSumAvoidingSubsetSize A ≥ Real.log n ^ (1 + c) := by
```

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+  sorry
+
+/--
+From [Er65] it is known that $M(A) \le \frac{1}{3}|A| + O(1)$.
+-/
+@[category research solved, AMS 11]
+theorem green_2_upper_bound_erdos :
+    ∃ C : ℝ, ∀ n : ℕ, ∃ A : Finset ℤ, A.card = n ∧
+      (maxRestrictedSumAvoidingSubsetSize A : ℝ) ≤ n / 3 + C := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/2.lean]:
```suggestion
    ∃ C : ℝ, ∀ A : Finset ℤ,
      (maxRestrictedSumAvoidingSubsetSize A : ℝ) ≤ A.card / 3 + C := by
```
feels more accurate, no? Same for the upper bounds below

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 6]
```diff
@@ -0,0 +1,104 @@
...
+Choi [Er65, p190], and [BSS00].
+-/
+
+/--
+From [Ch71] it is known that $M(A) \le |A|^{2/5 + o(1)}$.
+-/
+@[category research solved, AMS 11]
+theorem green_2_upper_bound_choi :
+    ∀ ε > (0 : ℝ), ∀ᶠ n : ℕ in atTop, ∃ A : Finset ℤ, A.card = n ∧
+      (maxRestrictedSumAvoidingSubsetSize A : ℝ) ≤ n ^ (2 / 5 + ε) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/2.lean]: Can you state this using a function tending to 0 instead?

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: For sure! Addressed with [c61f548](https://github.com/google-deepmind/formal-conjectures/pull/1871/commits/c61f548934337ffb4a6e9df4b7ea88d31d04accb)

File: FormalConjectures/GreensOpenProblems/2.lean (hunk 5 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: I like it, less verbose too. Thanks!

File: FormalConjectures/GreensOpenProblems/2.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: Done!

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 7]
```diff
@@ -0,0 +1,104 @@
...
+
+/--
+From [Ru05] the best-known upper bound is $|S| \lt e^{C \sqrt{\log |A|}}$.
+-/
+@[category research solved, AMS 11]
+theorem green_2_upper_bound_ruzsa :
+    ∃ C > (0 : ℝ), ∀ A : Finset ℤ,
+      (maxRestrictedSumAvoidingSubsetSize A : ℝ) < Real.exp (C * Real.sqrt (Real.log A.card)) := by
+  sorry
+end Green2
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/2.lean:106]:
```suggestion

end Green2
```

File: FormalConjectures/GreensOpenProblems/2.lean [hunk 8]
```diff
@@ -0,0 +1,105 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+open Filter
+open scoped Topology
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/2.lean]: Can you move this to after the module doc?

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/2.lean]: Done :+1:
